US09102625B2
To a solution of 3-fluoronitrobenzene (2 mL, 18.8 mmol) in DMSO (20 mL) was added Boc-piperazine (10 g, 56.4 mmol), after stirring at 100° C. for 3 days, the mixture was poured to ice water, the resulting precipitate was collected by filtration to give tert-butyl 4-(3-nitrophenyl)piperazine-1-carboxylate (1.91 g).

reactant | 3-fluoronitrobenzene | 18.8 mmol, 2 mL | FC=1C=C(C=CC1)[N+](=O)[O-] | C6H4FNO2
reactant | Boc-piperazine | 56.4 mmol, 10 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | tert-butyl 4-(3-nitrophenyl)piperazine-1-carboxylate | 1.91 g | [N+](=O)([O-])C=1C=C(C=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21N3O4
